Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain, bradycardia  
 
Major Surgical or Invasive Procedure:
Stress Echocardiogram

 
History of Present Illness:
 Mrs. ___ is a ___ year old ___ speaking female 
with a history of DM2, HTN, HLD, and OSA who presents with chest 
pain and bradycardia.  History per neice was noted for pt has 
had intermittant episodes of chest pain, lightheadedness, and 
shortness of breath for the past three weeks. She has also had 
some nausea and occasional vomiting in association with these 
symptoms and has had to eat lighter meals as a result. She also 
reports increased pain in her hands during this time. She denies 
abdominal pain or changes in bowel habits. She has been taking 
sublingual nitroglycerin every morning, but does not feel that 
this helps her symptoms. She was recently seen by her PCP for 
these symptoms and a stress-thallium study was ordered.  
.  
Yesterday she was with her niece and it was noted that she had 
to stop frequently while walking due to lightheadedness and 
shortness of breath. Today she developed chest pain and 
dizziness in the afternoon. On arrival by EMS she was found to 
be bradycardic with a junctional rhythm in the ___. She received 
1.5 mg of atropine in the field, her chest pain resolved, and 
her heart rate came up to the ___. No ischemic changes were 
noted on EKG.  
.  
In the ED initial vital signs were T 97.8, HR 62, BP 116/58, RR 
16, O2 sat 99%. Exam and CXR were unremarkable. While in the ED 
she became bradycardic to the ___ again and hypotensive with BP 
79/57. She received 0.5 mg atropine and heart rate improved to 
the ___ and SBP to the 100s. She remained in sinus rhythm and 
was seen by cardiology who felt she was appropriate for the 
floor. She also received aspirin 325 mg. Vital signs on sign out 
were T 97, HR 58, BP 112/56, 100% RA.  
.  

 
Past Medical History:
Cardiac Risk Factors: (+)Diabetes, (+)Dyslipidemia, 
(+)Hypertension  
.  
Cardiac History: no hx of CABG, PCI, or pacemaker/ICD  
.  
Other Past History:  
Obesity  
Sleep apnea  
H/o Dyspnea on exertion. 
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death. Family history is notable for multiple family 
members with blood clots, diabetes, and hypertension.  
 
Physical Exam:
VS: BP 138/77, HR 54, RR 20, O2 sat 97% RA, wt 89.3 kg  
Gen: Obese ___ female in NAD. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple, no lymphadenopathy, JVP not elevated.  
CV: PMI located in ___ intercostal space, midclavicular line. 
Bradycardic, regular rhythm, normal S1, S2. No m/r/g. No 
thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. No abdominial bruits.  
Ext: No c/c/e. 2+ DP pulses bilaterally.  
Skin: No stasis dermatitis, ulcers, or xanthomas. 
 
Pertinent Results:
___ 01:15PM BLOOD WBC-8.7 RBC-4.45 Hgb-11.5* Hct-36.2 
MCV-82 MCH-25.7* MCHC-31.6 RDW-16.7* Plt ___
___ 01:15PM BLOOD ___ PTT-22.8 ___
___ 01:15PM BLOOD Glucose-145* UreaN-22* Creat-1.0 Na-140 
K-4.6 Cl-105 HCO3-26 AnGap-14
___ 01:15PM BLOOD cTropnT-<0.01
___ 10:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 01:15PM BLOOD Calcium-9.0 Phos-4.5 Mg-2.5
/___ AP CXR - IMPRESSION: No acute intrathoracic process. 
Limited exam.  
.  
EMS EKG & tracings - sinus brady with junctional escape beats.  
.  
EKG 13:06 - Junctional rhythm at 60 bpm. T wave flattening is 
more pronounced since ___.  
.  
2D-ECHOCARDIOGRAM performed on ___ demonstrated: The left 
atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%) Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.  
Compared with the report of the prior study (images unavailable 
for review) of ___, the findings are similar.  
.  
ETT performed on ___ demonstrated: INTERPRETATION: This ___ 
year old woman was referred for a chest pain evaluation. She 
exercised for 7.5 minutes of a modified ___ protocol and 
stopped for fatigue. This represents a limited physical working 
capacity. No arm, neck, back, or chest discomforts were reported 
by the patient throughout the procedure. No ST segment changes 
were noted during exercise or recovery periods. The rhythm was 
sinus with rare isolated APBs. Hemodynamic response to exercise 
was appropriate.  
 
IMPRESSION: No anginal type symptoms with no ischemic EKG 
changes at  
the achieved workload.  

 
Brief Hospital Course:
___ year female with a history of DM2, HTN, HLD, and OSA who 
presents with chest pain, lightheadedness, and bradycardia.  

Mrs ___ presented with chest pain, lightheadedness, and 
bradycardia.  She did not continue to have chest pain while in 
hospital and she was ruled out for MI.  It was noted that she 
had bradycardia only in the setting of sleeping.  She has very 
bad sleep apnea according of to her daughter.  She underwent 
stress echo which showed fair functional exercise capacity.  She 
was discharged in stable condition with close follow up.  

Code: Full code  

Contact: Daughter ___ ___ Niece ___ ___. 
 
 

 
___ on Admission:
CURRENT MEDICATIONS:  
AMLODIPINE [NORVASC] - 5 mg daily  
ATORVASTATIN [LIPITOR] - 40 mg daily  
LISINOPRIL - 20 mg daily  
METOPROLOL SUCCINATE - 50 mg SR daily  
NITROGLYCERIN - 0.4 mg prn  
ACETAMINOPHEN - 1000 mg BID - TID prn pain  
ASPIRIN - 81 mg daily  
KETOTIFEN FUMARATE [ZADITOR] - 0.025 % Drops - 1 drop(s) ___ BID 
prn  
NPH INSULIN HUMAN RECOMB [HUMULIN N] - 85 units qam and 45 units 
qpm  
PEG 400-PROPYLENE GLYCOL [SYSTANE] - 0.3 %-0.4 % 1 drop ___  
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO twice a 
day as needed for pain.  
6. Ketotifen Fumarate 0.025 % Drops Sig: One (1) drop both eyes 
Ophthalmic twice a day as needed for eye pain.  
7. PEG 400-Propylene Glycol 0.4-0.3 % Drops Sig: One (1) drop 
both eyes Ophthalmic four times a day as needed for dry eyes.  
8. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual prn as needed for chest pain: please take one tab 
every 5 minutes for a total of 3 doses.  If Chest pain does not 
resolve after first dose, please call ___. .  
9. NPH Insulin Human Recomb 100 unit/mL Suspension Sig: 85 units 
qam and 45 units qpm   Subcutaneous once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bradycardia
OSA

HTN
HLD
Knee pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with chest pain and slow heart rate. We 
determined that you have slow heart rate due to sleep apnea.  
However, you need to be properly diagnosed with sleep apnea with 
a sleep study.  You also underwent a stress test which 
showed....  You were discharged in stable condition. 

Please follow up with your doctors.

Please note, we made the following changes to your medications.
CHANGED:
Amlodipine 5 mg a day to 10mg a day.

It was a pleasure taking care of you.  We wish you a speedy 
recovery. 

 
Followup Instructions:
___